US07705027B2
4-Isobutyl-benzene-1,3-diol (1 eq)was taken up in BF3.Oet2 (6 eq) and aceticacid (2 eq) was added. The solution was heated for 16 hours at 90° C. than allowed to cool to room temperature. The solution was added drop wise to 10% NaOAc (aq) and allowed to stand for 4 hours, before being extracted twice with diethyl ether. The organic phases were combined and washed with sat. NaHCO3 (aq), then dried over magnesium sulfate, filtered and concentrated in vacuo to give 1-(2,4-dihydroxy-5-isobutyl-phenyl)-ethanone, which was used without additional purification.

reactant | 4-Isobutyl-benzene-1,3-diol | 1 eq | C(C(C)C)C1=C(C=C(C=C1)O)O | C10H14O2
reactant | aceticacid | 2 eq | C(C)(=O)O | C2H4O2
reactant | NaOAc | CC(=O)[O-].[Na+]
solvent | BF3 | B(F)(F)F | BF3
product | 1-(2,4-dihydroxy-5-isobutyl-phenyl)-ethanone | OC1=C(C=C(C(=C1)O)CC(C)C)C(C)=O | C12H16O3
